US08349880B2
Step M (2): A mixture of concentrated sulfuric acid and nitric acid (1:1 ratio, 60 mL total volume) was slowly and carefully added to a solution of 2,3-difluorophenyl ethyl carbonate (20 g, 98.9 mmol) in concentrated sulfuric acid (15 mL). The internal temperature was maintained at rt throughout the addition. After complete addition, the resulting mixture was stirred for 2 h. The mixture was poured onto ice and extracted with chloroform. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified using silica gel column chromatography (hexane) to afford 2,3-difluoro-5-nitrophenyl ethyl carbonate (1.5 g, 6% yield).

reactant | nitric acid | 60 mL | [N+](=O)(O)[O-] | HNO3
reactant | 2,3-difluorophenyl ethyl carbonate | 98.9 mmol, 20 g | C(OC1=C(C(=CC=C1)F)F)(OCC)=O | C9H8F2O3
solvent | sulfuric acid | 15 mL | S(O)(O)(=O)=O | H2O4S
product | 2,3-difluoro-5-nitrophenyl ethyl carbonate | 1.5 g, 6% yield | C(OC1=C(C(=CC(=C1)[N+](=O)[O-])F)F)(OCC)=O | C9H7F2NO5
